US07666888B2
(2R,6S)-2,6-Dimethyl-4-{[5-(4-methylphenyl)isoxazol-4-yl]carbonyl}morpholine
The title compound was prepared from 5-(4-methylphenyl)isoxazole-4-carboxylic acid (10.2 mg, 0.050 mmol) and cis-2,6-dimethylmorpholine (6.9 mg, 0.060 mmol) as described in synthetic method B and thereafter purified by preparative HPLC method B to give a solid (9.9 mg). Calcd for C17H20N2O3: 300.1474, found 300.1472.

reactant | 5-(4-methylphenyl)isoxazole-4-carboxylic acid | 0.050 mmol, 10.2 mg | CC1=CC=C(C=C1)C1=C(C=NO1)C(=O)O | C11H9NO3
reactant | cis-2,6-dimethylmorpholine | 0.060 mmol, 6.9 mg | C[C@@H]1CNC[C@@H](O1)C | C6H13NO
product | (2R,6S)-2,6-Dimethyl-4-{[5-(4-methylphenyl)isoxazol-4-yl]carbonyl}morpholine | C[C@@H]1CN(C[C@@H](O1)C)C(=O)C=1C=NOC1C1=CC=C(C=C1)C | C17H20N2O3
